2195-07-30 09:33:00 Physician Attending Progress Note
Chief Complaint: massive PE
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   56M with recent diagnosis of crohn's, presents with several days of
   SOB, diagnosed with massive PE:
   24 Hour Events:
   -lysed overnight due to high minute ventilation, lower BPs despite
   fluid resuscitation
   -improved gas exchange after lysis
   -hr and bp improved after lysis
   -febrile overnight
   -melena this am
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Metformin
   Unknown;
   Azithromycin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,200 units/hour
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium - [**2195-7-29**] 05:09 PM
   Dextrose 50% - [**2195-7-29**] 08:00 PM
   Pantoprazole (Protonix) - [**2195-7-30**] 01:00 AM
   Other medications:
   nac, hydrocort, riss, mesalamine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: Tachycardia
   Nutritional Support: Tube feeds
   Respiratory: Tachypnea
   Genitourinary: Foley
   Endocrine: Hyperglycemia
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2195-7-30**] 09:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.1
C (98.8
   HR: 97 (92 - 135) bpm
   BP: 122/72(88) {94/63(-7) - 133/104(102)} mmHg
   RR: 20 (18 - 33) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
   CVP: 1 (1 - 11)mmHg
   CO/CI (Fick): (69.5 L/min) / (26.6 L/min/m2)
   Mixed Venous O2% Sat: 91 - 91
                                Total In:
                                                                  3,346 mL
                                                                  1,968 mL
   PO:
                                TF:
   IVF:
                                                                  2,236 mL
                                                                  1,908 mL
   Blood products:
   Total out:
                                                                    695 mL
                                                                    480 mL
   Urine:
                                                                    395 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,651 mL
                                                                  1,488 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 650 (650 - 650) mL
   RR (Set): 18
   RR (Spontaneous): 4
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 68
   PIP: 20 cmH2O
   Plateau: 14 cmH2O
   SpO2: 97%
   ABG: 7.38/44/117/24/0
   Ve: 14.4 L/min
   PaO2 / FiO2: 234
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   11.7 g/dL
   267 K/uL
   292 mg/dL
   1.3 mg/dL
   24 mEq/L
   4.7 mEq/L
   28 mg/dL
   106 mEq/L
   141 mEq/L
   35.1 %
   17.1 K/uL
        [image002.jpg]
                             [**2195-7-29**]  03:50 PM
                             [**2195-7-29**]  04:05 PM
                             [**2195-7-29**]  05:18 PM
                             [**2195-7-29**]  08:33 PM
                             [**2195-7-29**]  10:31 PM
                             [**2195-7-29**]  10:43 PM
                             [**2195-7-30**]  02:15 AM
                             [**2195-7-30**]  03:04 AM
                             [**2195-7-30**]  03:29 AM
                             [**2195-7-30**]  07:23 AM
   WBC
   16.6
   13.9
   17.1
   Hct
   41.7
   40.1
   37.3
   35.1
   Plt
   355
   295
   267
   Cr
   1.3
   1.3
   1.3
   TropT
   0.02
   0.04
   0.05
   TCO2
   27
   25
   25
   28
   26
   27
   Glucose
   265
   302
   292
   Other labs: PT / PTT / INR:14.2/53.8/1.2, CK / CKMB /
   Troponin-T:78//0.05, ALT / AST:13/16, Alk Phos / T Bili:54/0.6,
   Differential-Neuts:89.5 %, Lymph:6.0 %, Mono:4.5 %, Eos:0.0 %, Lactic
   Acid:1.3 mmol/L, Albumin:3.6 g/dL, LDH:278 IU/L, Ca++:8.7 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.2 mg/dL
   Fluid analysis / Other labs: ua -- concentrated
   Imaging: ct -- see admission
   cxr -- bibasilar airspace opacities
   Microbiology: cx pending
   ECG: ekg -- improved
   Assessment and Plan
   56M with recent diagnosis of crohn's, presents with massive PE
   resulting in hypoxic and hypercarbic respiratory failure, now s/p lysis
   with much improved hemodynamics and gas exchange:
   massive pe s/p lysis, resp failure
   -cont heparin; holding off on coumadin in case needs lysis again
   -move to extubate today
   -limited work-up of hyrecoag: genetic tests and antiphosphlipid ab as
   outpatient in heme fellow-up
   -prn fluids for low bp and low cvp
   crohn's / rectal bleeding
   -cont stress dose steroids until bleeding from rectum
   stabilizes/resolves
   -cont mesalamine
   -serial hct; transfuse prn
   dm
   -start more strict glc control
   fever: from PE?
   -no empiric abx
   -fu cultures
   ICU Care
   Nutrition: hold off given likely extubation soon
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2195-7-29**] 03:15 PM
   Arterial Line - [**2195-7-29**] 03:57 PM
   Multi Lumen - [**2195-7-29**] 07:23 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2195-08-01 11:19:00 Physician Attending Progress Note
Chief Complaint: massive pe
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   56M with recent diagnosis of IBD, presented with resp failure from
   massive PE, s/p lysis with rapid improvement, now with slow GIB:
   24 Hour Events:
   -s/p egd this am, normal (also ng lavage neg)
   -hct continue to fall slowly with maroon stools
                              History obtained from Patient
   Allergies:
   Azithromycin
   Unknown;
   Metformin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium - [**2195-7-31**] 11:18 AM
   Pantoprazole (Protonix) - [**2195-8-1**] 04:04 AM
   Morphine Sulfate - [**2195-8-1**] 06:45 AM
   Fentanyl - [**2195-8-1**] 09:22 AM
   Midazolam (Versed) - [**2195-8-1**] 09:27 AM
   Other medications:
   riss, heparin gtt, nac, colace, prednisnoe 40, pantopr 40 iv q12
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Cardiovascular: No(t) Chest pain
   Nutritional Support: NPO
   Respiratory: No(t) Cough
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: No(t) Dysuria
   Endocrine: No(t) Hyperglycemia
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2195-8-1**] 11:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.6
C (97.8
   HR: 103 (86 - 105) bpm
   BP: 153/88(104) {115/48(73) - 169/99(116)} mmHg
   RR: 14 (9 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
   CVP: 11 (11 - 11)mmHg
   Total In:
                                                                    639 mL
                                                                    259 mL
   PO:
   TF:
   IVF:
                                                                    639 mL
                                                                    259 mL
   Blood products:
   Total out:
                                                                  1,735 mL
                                                                    590 mL
   Urine:
                                                                  1,735 mL
                                                                    590 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,096 mL
                                                                   -331 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///29/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese
   Head, Ears, Nose, Throat: No(t) Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   261 K/uL
   126 mg/dL
   1.0 mg/dL
   29 mEq/L
   3.6 mEq/L
   26 mg/dL
   109 mEq/L
   147 mEq/L
   27.6 %
   8.2 K/uL
        [image002.jpg]
                             [**2195-7-30**]  09:38 AM
                             [**2195-7-30**]  12:54 PM
                             [**2195-7-30**]  03:52 PM
                             [**2195-7-30**]  04:48 PM
                             [**2195-7-30**]  11:23 PM
                             [**2195-7-31**]  03:14 AM
                             [**2195-7-31**]  10:20 AM
                             [**2195-7-31**]  05:00 PM
                             [**2195-7-31**]  10:18 PM
                             [**2195-8-1**]  03:02 AM
   WBC
   10.8
   8.2
   Hct
   33.9
   33.4
   32.1
   30.5
   30.8
   30.7
   27.6
   27.6
   Plt
   240
   261
   Cr
   1.1
   1.0
   TCO2
   26
   27
   Glucose
   203
   126
   Other labs: PT / PTT / INR:13.0/67.3/1.1, CK / CKMB /
   Troponin-T:78//0.05, ALT / AST:13/15, Alk Phos / T Bili:45/0.4,
   Differential-Neuts:65.4 %, Lymph:29.0 %, Mono:4.6 %, Eos:0.7 %, Lactic
   Acid:1.3 mmol/L, Albumin:3.3 g/dL, LDH:252 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Imaging: egd: hiatal hernia, mild erosions, no bleeding
   Microbiology: sputum cx: normal flora
   Assessment and Plan
   56M with recent diagnosis of IBD, persented with massive PE s/p lysis
   with resolution of resp failure, but now with slow GI bleed likely from
   inflamed colon:
   PE
   -cont therapeatic heparin
   -holding off on coumadin given persistent GIB
   -holing off on filter despite non-occlusive clot
   GIB/IBD
   -tid hct
   -good access
   -continue prednisone, increase to 40 daily
   -new pentasa-like med per GI
   -ppi to daily
   ICU Care
   Nutrition: restart DIET
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2195-7-29**] 03:15 PM
   Multi Lumen - [**2195-7-29**] 07:23 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2195-08-02 15:47:00 Physician Attending Progress Note
Chief Complaint: GI bleed, coagulopathy
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   56 year old man recent dx of Crohn's disease, admitted one week ago for
   massive PE treated with thrombolysis. Today, has been passing maroon
   stool with bowel movements. Blood pressure has been stable. Oxygenation
   good on room air. Heparin continued.
   24 Hour Events:
 ENDOSCOPY - At [**2195-8-1**] 09:15 AM
 MULTI LUMEN - STOP [**2195-8-1**] 11:12 PM
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Azithromycin
   Unknown;
   Metformin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,800 units/hour
   Other ICU medications:
   Heparin Sodium - [**2195-8-1**] 07:02 PM
   Morphine Sulfate - [**2195-8-2**] 02:45 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-8-2**] 03:47 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 85 (85 - 121) bpm
   BP: 147/91(104) {126/78(87) - 150/102(112)} mmHg
   RR: 12 (10 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  1,021 mL
                                                                     35 mL
   PO:
                                                                    400 mL
             TF:
   IVF:
                                                                    621 mL
                                                                     35 mL
   Blood products:
   Total out:
                                                                  1,470 mL
                                                                    690 mL
   Urine:
                                                                  1,470 mL
                                                                    690 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -449 mL
                                                                   -655 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: Trace edema, Left: Trace edema, No(t) Cyanosis,
   No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   261 K/uL
   383 mg/dL
   1.1 mg/dL
   28 mEq/L
   4.2 mEq/L
   25 mg/dL
   102 mEq/L
   140 mEq/L
   29.4 %
   8.2 K/uL
        [image002.jpg]
                             [**2195-7-30**]  03:52 PM
                             [**2195-7-30**]  04:48 PM
                             [**2195-7-30**]  11:23 PM
                             [**2195-7-31**]  03:14 AM
                             [**2195-7-31**]  10:20 AM
                             [**2195-7-31**]  05:00 PM
                             [**2195-7-31**]  10:18 PM
                             [**2195-8-1**]  03:02 AM
                             [**2195-8-1**]  01:59 PM
                             [**2195-8-2**]  02:19 PM
   WBC
   10.8
   8.2
   Hct
   33.4
   32.1
   30.5
   30.8
   30.7
   27.6
   27.6
   30.9
   29.4
   Plt
   240
   261
   Cr
   1.1
   1.0
   1.1
   TCO2
   27
   Glucose
   [**Telephone/Fax (3) 7664**]
   Other labs: PT / PTT / INR:12.4/56.3/1.0, CK / CKMB /
   Troponin-T:78//0.05, ALT / AST:13/15, Alk Phos / T Bili:45/0.4,
   Differential-Neuts:65.4 %, Lymph:29.0 %, Mono:4.6 %, Eos:0.7 %,
   Fibrinogen:333 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:3.3 g/dL, LDH:252
   IU/L, Ca++:8.9 mg/dL, Mg++:2.0 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 PULMONARY EMBOLISM (PE), ACUTE
   CROHN'S COLITIS
   ANEMIA
   =============================
   Patient with ongoing GI bleeding. Getting transfused now. Maintained on
   heparin because of severity of recent pulmonary embolism. PTT be
   monitored closely. Patient to have colonscopy tomorrow. Hct down with
   bleeding. Monitor response to transfusions.
   Renal function improving. Maintain adequate volume status. Electrolytes
   and acid-base status acceptable.
   Continues on prednisone for his inflammatory bowel disease.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2195-8-2**] 01:31 PM
   Multi Lumen - [**2195-8-2**] 01:32 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2195-08-03 07:31:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 56 year old male with DMII, HTN, crohn's disease, on
   steroids, diverticulosis s/p colectomy X 2, who was admitted to the
   MICU on [**7-29**] for respiratory failure requiring intubation secondary to
   submassive PE. Trasnferred to floor yesterday night s/p lysis now with
   continued maroon stools and falling HCT.
   24 Hour Events:
 MULTI LUMEN - START [**2195-8-2**] 01:32 PM
   [**2195-8-2**]
   -sent back from [**Hospital Ward Name **] 2 for serial HCts and closer monitoring with plans
   to scope in AM-golytely
   -HCT 26-30-29, wrote for 2 units for buffer. 34.1, ->29.9
   Allergies:
   Azithromycin
   Unknown;
   Metformin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 19 units/hour
   Other ICU medications:
   Morphine Sulfate - [**2195-8-3**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-8-3**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.3
C (97.4
   HR: 63 (63 - 93) bpm
   BP: 127/86(95) {127/63(82) - 174/127(131)} mmHg
   RR: 18 (7 - 20) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  4,592 mL
                                                                     62 mL
   PO:
                                                                  4,000 mL
             TF:
   IVF:
                                                                     37 mL
                                                                     62 mL
   Blood products:
                                                                    555 mL
   Total out:
                                                                  4,120 mL
                                                                  1,170 mL
   Urine:
                                                                  1,720 mL
                                                                    770 mL
   NG:
   Stool:
                                                                  2,400 mL
                                                                    400 mL
   Drains:
   Balance:
                                                                    472 mL
                                                                 -1,108 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///30/
   Physical Examination
   Gen:NAD
   HEENT: NC/AT, perrla, EOMI, anicteric R.IJ in place, C/D/I
   CV: s1s2 rrr no m/r/g
   Pulm: CTA b/l
   Abd: obese, soft, NT, ND.  Periumbilical hernia
   Ext: multiple eschars, no edema
   Neuro: AAOx3, CN2-12 intact.
   Labs / Radiology
   309 K/uL
   10.0 g/dL
   141 mg/dL
   1.0 mg/dL
   30 mEq/L
   3.3 mEq/L
   18 mg/dL
   104 mEq/L
   142 mEq/L
   30.3 %
   9.5 K/uL
        [image002.jpg]
                             [**2195-7-31**]  05:00 PM
                             [**2195-7-31**]  10:18 PM
                             [**2195-8-1**]  03:02 AM
                             [**2195-8-1**]  01:59 PM
                             [**2195-8-2**]  02:19 PM
                             [**2195-8-2**]  05:54 PM
                             [**2195-8-2**]  06:00 PM
                             [**2195-8-2**]  09:52 PM
                             [**2195-8-3**]  02:02 AM
                             [**2195-8-3**]  04:05 AM
   WBC
   8.2
   9.5
   Hct
   30.7
   27.6
   27.6
   30.9
   29.4
   34.1
   29.9
   30.2
   30.3
   Plt
   261
   309
   Cr
   1.0
   1.1
   1.0
   Glucose
   126
   383
   225
   141
   Other labs: PT / PTT / INR:13.4/80.4/1.1, CK / CKMB /
   Troponin-T:78//0.05, ALT / AST:13/15, Alk Phos / T Bili:45/0.4,
   Differential-Neuts:62.5 %, Lymph:31.8 %, Mono:4.0 %, Eos:1.3 %,
   Fibrinogen:305 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:3.3 g/dL, LDH:252
   IU/L, Ca++:8.8 mg/dL, Mg++:1.9 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   56 year old male with DMII, HTN, crohn's disease, on steroids,
   diverticulosis s/p colectomy X 2, who was admitted to the MICU on [**7-29**]
   for respiratory failure requiring intubation secondary to submassive
   PE. Transferred to floor yesterday night s/p lysis now with continued
   maroon stools and falling HCT.
   # GI Bleed:  Likely secondary to TPA lysis, heparin gtt and/or Crohns.
   Pt with maroon stool since anticoagulation started. Hct remained stable
   overnight with 4 Units of PRBCs.  Pt reportedly asymptomatic and
   hemodynamically stable. Gen [**Doctor First Name **] aware and recommended filter. GI
   - Colonoscopy this morning in one hour.   Turn off heparin gtt for no
   more than one hour.
   - Active T+S, crossmatch 6 units
   - Q4h HCTs, transfuse for <30
   - f/u GI recs
   - f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] recs
   - consider IVC filter
   - 2 PIVs and CVL
   - Continue Predisone 40 mg daily and Mesalamine
   # Pulmonary Embolism. Patient had massive clot burden visible by CTA,
   and s/p right ventricular strain on echo. S/p lysis and now
   hemodynamics are stable. S/p extubation and with good oxygen saturation
   weaned to RA.
   - continue heparin gtt for now, will consider coumadin once bleeding
   resolved. Will need lifelong anticoag.
   - monitor resp status
   # Crohns. Prior to admission, patient was on PO prednisone taper.
   Following administration of tpa lysis for PE, patient has developed
   ongoing maroon stools. Hct has fallen from 40 to 30. Hemodynamically
   stable and asx. EGD shows no upper GI bleeding. S/p colonoscopy in [**5-2**]
   showing inflammation of the colon.
   - Continue prednisone 40mg daily
   - Mesalamine 500 mg PO BID
   - cont to monitor Q4hr hcts and transfuse for <30
   # Type 2 Diabetes: Hyperglycemia given steroid use.
   - HISS tightened, added glargine 10units QHS
   - monitor glucose levels closeley
   # HTN. Normotensive-will continue to hold home anti-HTNs given GIB.
   # Renal failure. Patient's recent Cr in our system have ranged from 1.3
   to 2.0 so current value is within his range of normal.
   - renally dose all meds
   - follow Cr
   # FEN: No IVF, replete electrolytes, clears then NPO after MN.
   # Prophylaxis: Heparin gtt, GI ppx, bowel regimen
   # Access: peripherals, central line
   # Contact: [**Name (NI) 996**] [**Name (NI) **] (wife) [**Telephone/Fax (1) 7591**]
   # Disposition: pending resolution of above.
   ICU Care
   Nutrition:  NPO
   Glycemic Control:  Glargine
   Lines:
   18 Gauge - [**2195-8-2**] 01:31 PM
   Multi Lumen - [**2195-8-2**] 01:32 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  ICU for now pending plan for anticoagulation

2195-08-03 09:41:00 Physician Attending Progress Note
Chief Complaint: massive PE, gib
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   56M with recent diagnosis of crohn's, presented with dyspnea, diagnosed
   with massive PE s/p lysis, now with expected GIB, awaiting further
   diagnostic procedures:
   24 Hour Events:
   -3 units PRBC over 24 hrs
   History obtained from Patient
   Allergies:
   Azithromycin
   Unknown;
   Metformin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 19 units/hour
   Other ICU medications:
   Morphine Sulfate - [**2195-8-3**] 03:00 AM
   Other medications:
   protonix, prednisone 40, riss, colace, lantus, heparin gtt
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations
   Nutritional Support: NPO
   Respiratory: Cough
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation, brbpr last night
   Genitourinary: Foley
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2195-8-3**] 09:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.3
C (97.4
   HR: 79 (63 - 93) bpm
   BP: 124/84(94) {124/63(82) - 174/127(131)} mmHg
   RR: 17 (7 - 20) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  4,592 mL
                                                                    136 mL
   PO:
                                                                  4,000 mL
             TF:
   IVF:
                                                                     37 mL
                                                                    136 mL
   Blood products:
                                                                    555 mL
   Total out:
                                                                  4,120 mL
                                                                  1,470 mL
   Urine:
                                                                  1,720 mL
                                                                  1,070 mL
   NG:
   Stool:
                                                                  2,400 mL
                                                                    400 mL
   Drains:
   Balance:
                                                                    472 mL
                                                                 -1,334 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///30/
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   10.0 g/dL
   309 K/uL
   141 mg/dL
   1.0 mg/dL
   30 mEq/L
   3.3 mEq/L
   18 mg/dL
   104 mEq/L
   142 mEq/L
   30.3 %
   9.5 K/uL
        [image002.jpg]
                             [**2195-7-31**]  05:00 PM
                             [**2195-7-31**]  10:18 PM
                             [**2195-8-1**]  03:02 AM
                             [**2195-8-1**]  01:59 PM
                             [**2195-8-2**]  02:19 PM
                             [**2195-8-2**]  05:54 PM
                             [**2195-8-2**]  06:00 PM
                             [**2195-8-2**]  09:52 PM
                             [**2195-8-3**]  02:02 AM
                             [**2195-8-3**]  04:05 AM
   WBC
   8.2
   9.5
   Hct
   30.7
   27.6
   27.6
   30.9
   29.4
   34.1
   29.9
   30.2
   30.3
   Plt
   261
   309
   Cr
   1.0
   1.1
   1.0
   Glucose
   126
   383
   225
   141
   Other labs: PT / PTT / INR:13.4/80.4/1.1, CK / CKMB /
   Troponin-T:78//0.05, ALT / AST:13/15, Alk Phos / T Bili:45/0.4,
   Differential-Neuts:62.5 %, Lymph:31.8 %, Mono:4.0 %, Eos:1.3 %,
   Fibrinogen:305 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:3.3 g/dL, LDH:252
   IU/L, Ca++:8.8 mg/dL, Mg++:1.9 mg/dL, PO4:3.8 mg/dL
   Imaging: no new
   Microbiology: no new
   Assessment and Plan
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 PULMONARY EMBOLISM (PE), ACUTE
   56M with crohn's dz, massive pe s/p lysis, now with expected gib while
   on heparin, awaiting repeat colonoscopy:
   gib: suspect colon
   -colonoscopy now
   -awaiting gi recs
   -continue prednisone and mesalamine
   -access adequate
   massive pe: ?residual clot
   -continue heparin gtt
   -waiting to start coumadin given gib
   -may need to consider ivc filter vs surgery for bleeding source given
   massive pe and possible inability to tolerate anticoagulation
   dm
   -stable
   arf
   -resolved
   ICU Care
   Nutrition:  NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2195-8-2**] 01:31 PM
   Multi Lumen - [**2195-8-2**] 01:32 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition : ICU until definitive plan for surgery
   Total time spent: 35 minutes
   Patient is critically ill

2195-08-04 07:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 56 year old male with DMII, HTN, crohn's disease, on
   steroids, diverticulosis s/p colectomy X 2, who was admitted to the
   MICU on [**7-29**] for respiratory failure requiring intubation secondary to
   submassive PE. Transferred to floor yesterday night s/p lysis now with
   continued maroon stools and falling HCT.
   24 Hour Events:
   - Colonoscopy this morning showed active Crohn's disease but no
   evidence of current bleeding.  GI recommended IVC filter and continued
   systemic anticoagulation.
   -Colonoscopy:
   Grade 1 internal hemorrhoids
   Diverticulosis of the sigmoid colon
   Ulceration and erythema from the transverse colon to cecum compatible
   with Crohn's disease
   Blood clots in the whole colon.  In the terminal ileum, we found normal
   mucosa.  No blood clot and red blood were noticed in the terminal
   ileum.  The stool in the terminal ileum was yellow.  The G.I. bleeding,
   therefore, most likely occurred in the colon.
   Otherwise normal colonoscopy to cecum
   - IVC filter  by IR in am
   - Hct 30, 31, 32
   - no blood needed
   Allergies:
   Azithromycin
   Unknown;
   Metformin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,600 units/hour
   Other ICU medications:
   Morphine Sulfate - [**2195-8-3**] 10:00 AM
   Heparin Sodium - [**2195-8-3**] 07:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-8-4**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98
   HR: 69 (64 - 90) bpm
   BP: 140/91(102) {120/57(74) - 157/95(108)} mmHg
   RR: 14 (8 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  1,877 mL
                                                                    193 mL
   PO:
                                                                  1,130 mL
             TF:
   IVF:
                                                                    747 mL
                                                                    193 mL
   Blood products:
   Total out:
                                                                  5,290 mL
                                                                  1,150 mL
   Urine:
                                                                  4,790 mL
                                                                  1,150 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                 -3,413 mL
                                                                   -957 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///28/
   Physical Examination
   Gen: NAD
   HEENT: Nc/AT, perrla, EOMI, anicteric R.IJ in place, C/D/I
   CV: s1s2 rrr no m/r/g
   Pulm: CTA b/l
   Abd: obese, soft, NT, ND
   Ext: multiple eschars, no edema
   Neuro: AAOx3, CN2-12 intact.
   Labs / Radiology
   317 K/uL
   10.2 g/dL
   140 mg/dL
   1.0 mg/dL
   28 mEq/L
   3.4 mEq/L
   15 mg/dL
   104 mEq/L
   141 mEq/L
   30.1 %
   9.0 K/uL
        [image002.jpg]
                             [**2195-8-2**]  06:00 PM
                             [**2195-8-2**]  09:52 PM
                             [**2195-8-3**]  02:02 AM
                             [**2195-8-3**]  04:05 AM
                             [**2195-8-3**]  08:57 AM
                             [**2195-8-3**]  12:11 PM
                             [**2195-8-3**]  05:45 PM
                             [**2195-8-3**]  09:02 PM
                             [**2195-8-4**]  12:59 AM
                             [**2195-8-4**]  04:52 AM
   WBC
   9.5
   9.0
   Hct
   29.9
   30.2
   30.3
   30.7
   30.0
   32.6
   31.4
   30.5
   30.1
   Plt
   309
   317
   Cr
   1.0
   1.0
   Glucose
   [**Telephone/Fax (3) 7676**]
   Other labs: PT / PTT / INR:13.0/94.1/1.1, CK / CKMB /
   Troponin-T:78//0.05, ALT / AST:13/15, Alk Phos / T Bili:45/0.4,
   Differential-Neuts:71.3 %, Lymph:23.4 %, Mono:4.2 %, Eos:0.8 %,
   Fibrinogen:305 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:3.3 g/dL, LDH:252
   IU/L, Ca++:8.6 mg/dL, Mg++:2.2 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   56 year old male with DMII, HTN, crohn's disease, on steroids,
   diverticulosis s/p colectomy X 2, who was admitted to the MICU on [**7-29**]
   for respiratory failure requiring intubation secondary to submassive
   PE. Transferred to floor yesterday night s/p lysis now with continued
   maroon stools and falling HCT.
   # GI Bleed:  Likely secondary to TPA lysis, heparin gtt and/or Crohns.
   Pt with maroon stool since anticoagulation started. Hct remained stable
   overnight with 4 Units of PRBCs.  Pt reportedly asymptomatic and
   hemodynamically stable. Gen [**Doctor First Name **] aware and recommended filter, as did
   GI.
   -  To IR for IVC filter.   Turn off heparin gtt for no more than one
   hour.
   - Active T+S, crossmatch 6 units
   - Q6h HCTs, transfuse for <30
   - f/u GI recs
   - f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] recs
   - 2 PIVs and CVL
   - Continue Predisone 40 mg daily and Mesalamine
   - would consider repeat chest CTA to evaluate for
   # Pulmonary Embolism. Patient had massive clot burden visible by CTA,
   and s/p right ventricular strain on echo. S/p lysis and now
   hemodynamics are stable. S/p extubation and with good oxygen saturation
   weaned to RA.
   - likely not a candidate for life long anticoagulation given active
   Crohns disease
   - will d/c heparin gtt as described above
   - monitor resp status
   # Crohns. Prior to admission, patient was on PO prednisone taper.
   Following administration of tpa lysis for PE, patient has developed
   ongoing maroon stools. Hct has fallen from 40 to 30. Hemodynamically
   stable and asx. EGD shows no upper GI bleeding. S/p colonoscopy in [**5-2**]
   showing inflammation of the colon.
   - Continue prednisone 40mg daily
   - Mesalamine 500 mg PO BID
   - cont to monitor Q4hr hcts and transfuse for <30
   # Type 2 Diabetes: Hyperglycemia given steroid use.
   - HISS tightened, added glargine 10units QHS
   - monitor glucose levels closeley
   # HTN. Normotensive-will continue to hold home anti-HTNs given GIB.
   # Renal failure. Patient's recent Cr in our system have ranged from 1.3
   to 2.0 so current value is within his range of normal.
   - renally dose all meds
   - follow Cr
   # FEN: No IVF, replete electrolytes, clears then NPO after MN.
   # Prophylaxis: Heparin gtt, GI ppx, bowel regimen
   # Access: peripherals, central line
   # Contact: [**Name (NI) 996**] [**Name (NI) **] (wife) [**Telephone/Fax (1) 7591**]
   # Disposition: pending resolution of above.
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   Multi Lumen - [**2195-8-2**] 01:32 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2195-08-04 11:10:00 Physician Attending Progress Note
Chief Complaint: massive pe
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   56M with massive PE and a recent diagnosis of crohn's colitis, s/p
   lysis, now with slow GIB from active Crohn's:
   24 Hour Events:
   -s/p ivc filter today
   Allergies:
   Azithromycin
   Unknown;
   Metformin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium - [**2195-8-3**] 07:00 PM
   Pantoprazole (Protonix) - [**2195-8-4**] 08:00 AM
   Other medications:
   heparin gtt, masalamine, predn 40, riss, pantopr
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue
   Ear, Nose, Throat: No(t) Dry mouth
   Cardiovascular: No(t) Chest pain
   Nutritional Support: No(t) NPO
   Respiratory: No(t) Cough
   Psychiatric / Sleep: No(t) Agitated
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2195-8-4**] 11:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.8
C (98.3
   HR: 70 (64 - 90) bpm
   BP: 143/75(86) {120/57(74) - 157/95(108)} mmHg
   RR: 14 (8 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  1,877 mL
                                                                    225 mL
   PO:
                                                                  1,130 mL
             TF:
   IVF:
                                                                    747 mL
                                                                    225 mL
   Blood products:
   Total out:
                                                                  5,290 mL
                                                                  1,530 mL
   Urine:
                                                                  4,790 mL
                                                                  1,530 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                 -3,413 mL
                                                                 -1,305 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   10.2 g/dL
   317 K/uL
   140 mg/dL
   1.0 mg/dL
   28 mEq/L
   3.4 mEq/L
   15 mg/dL
   104 mEq/L
   141 mEq/L
   30.1 %
   9.0 K/uL
        [image002.jpg]
                             [**2195-8-2**]  06:00 PM
                             [**2195-8-2**]  09:52 PM
                             [**2195-8-3**]  02:02 AM
                             [**2195-8-3**]  04:05 AM
                             [**2195-8-3**]  08:57 AM
                             [**2195-8-3**]  12:11 PM
                             [**2195-8-3**]  05:45 PM
                             [**2195-8-3**]  09:02 PM
                             [**2195-8-4**]  12:59 AM
                             [**2195-8-4**]  04:52 AM
   WBC
   9.5
   9.0
   Hct
   29.9
   30.2
   30.3
   30.7
   30.0
   32.6
   31.4
   30.5
   30.1
   Plt
   309
   317
   Cr
   1.0
   1.0
   Glucose
   [**Telephone/Fax (3) 7676**]
   Other labs: PT / PTT / INR:13.0/94.1/1.1, CK / CKMB /
   Troponin-T:78//0.05, ALT / AST:13/15, Alk Phos / T Bili:45/0.4,
   Differential-Neuts:71.3 %, Lymph:23.4 %, Mono:4.2 %, Eos:0.8 %,
   Fibrinogen:305 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:3.3 g/dL, LDH:252
   IU/L, Ca++:8.6 mg/dL, Mg++:2.2 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 PULMONARY EMBOLISM (PE), ACUTE
   56M with massive PE and a recent diagnosis of crohn's colitis, s/p
   lysis, now with slow GIB from active Crohn's. This morning pt had IVC
   filter placed just in case pt cannot tolerate anticoagulation:
   pe: s/p lysis and s/p ivc filter
   -continue heparin
   -start warfarin
   gib: from crohn's
   -cont prednisone
   -mesalamine
   -gi following
   -[**Hospital1 **] hct; appears stable
   ICU Care
   Nutrition: regular diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2195-8-2**] 01:32 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition : To floor
   Total time spent: 35 minutes
   Patient is critically ill